US05084083
Preparation of N-Phenyl-5-bromo-2-(4-chlorophenyl)thiazol-4-yl-acetamide (Compound No. 69 in Table I)
A mixture of 5-bromo-2-(4-chlorophenyl)thiazol-4-yl-acetic acid (1 g, 3 mmol), thionyl chloride (2 equiv., 0.72 g, 6 mmol), and chloroform were heated under reflux for 2.5 hours. The reaction mixture was cooled and concentrated under reduced pressure. The residue was dissolved in CHCl3 (dry), followed by dropwise addition of aniline (2 equiv., 0.56 g, 6 mmol) and the resulting mixture refluxed for a further 5 hours. The reaction mixture cooled to room temperature and the precipitate was collected by filtration. The filtrate was concentrated under reduced pressure. The residue was triturated with EtOAc, and filtered to yield the desired product (0.4 g, 32%).

reactant | 5-bromo-2-(4-chlorophenyl)thiazol-4-yl-acetic acid | 3 mmol, 1 g | BrC1=C(N=C(S1)C1=CC=C(C=C1)Cl)CC(=O)O | C11H7BrClNO2S
reactant | thionyl chloride | 6 mmol, 0.72 g, 2 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | aniline | 6 mmol, 0.56 g, 2 equiv. | NC1=CC=CC=C1 | C6H7N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-Phenyl-5-bromo-2-(4-chlorophenyl)thiazol-4-yl-acetamide | 0.4 g, 32% | C1(=CC=CC=C1)NC(CC=1N=C(SC1Br)C1=CC=C(C=C1)Cl)=O | C17H12BrClN2OS
